US07001917B2
Step 1. 2-[4-(4-chloro-3,5-dimethyl-1H-pyrazol-1-yl)phenyl]ethanol
The title compound was prepared according to the procedure described in step 1 of Example 1 from 2-(4-hydrazinophenyl)ethanol hydrochloride and 3-chloropentane-2,4-dione: MS (ESI) m/z 251 [M+H]+, 1H-NMR (CDCl3) δ 7.32-7.25 (4H, m), 3.76 (2H, t, J=6.7 Hz), 2.85 (2H, t, J=6.7 Hz), 2.32 (1H, br.s), 2.28 (3H, s), 2.27 (3H, s).

reactant | 2-(4-hydrazinophenyl)ethanol hydrochloride | Cl.N(N)C1=CC=C(C=C1)CCO
reactant | 3-chloropentane-2,4-dione | ClC(C(C)=O)C(C)=O | C5H7ClO2
product | 2-[4-(4-chloro-3,5-dimethyl-1H-pyrazol-1-yl)phenyl]ethanol | ClC=1C(=NN(C1C)C1=CC=C(C=C1)CCO)C | C13H15ClN2O
